US05308853
(E)-4-[[2-Butyl-5[(3-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1-H-imidazol-1-yl]methylbenzoic acid
A solution of 3.44 g (0.012 mole) of 2-butyl-1-(4-carboxybenzyl)-5-formylimidazole, 2.40 g (0.016 mole) of 1-butylhydantoin, 25.92 g (0.071 mole) of 25% tetramethylammonium hydroxide-in-methanol and 12 mL of water is heated with stirring with an oil bath (bath temperature 135°-150° C.), allowing the methanol to distill over. After ca. 1/2 hour, the pot temperature is ca. 115°-120° C. The temperature is maintained 115°-120° C. for 15 minutes. The reaction solution is cooled to 70° C. and 5.04 g (0.084 mole) of glacial acetic acid and then ca. 100 mL of water are added to precipitate the mixed cis (Z) and trans (E) isomers. Separation with 200 mL of methanol, cooling, and filtering off the least soluble (E) isomer. Recrystallization of the (E) isomer is effected by dissolution in 50% methanol-methylene chloride and concentration to remove methylene chloride. The separated pale yellow crystals are filtered; mp 287°-289° C.; tlc (2:10 MeOH--CHCl3), 1 spot, Rf 0.4; nmr (DMSO--d6), vinyl proton at δ 5.86 ppm; MS (CI) 425.1 (M+ +1).

reactant | 2-butyl-1-(4-carboxybenzyl)-5-formylimidazole | 0.012 mole, 3.44 g | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C=C1)C(=O)O | C16H18N2O3
reactant | 1-butylhydantoin | 0.016 mole, 2.40 g | C(CCC)N1C(=O)NC(=O)C1 | C7H12N2O2
reactant | acetic acid | 0.084 mole, 5.04 g | C(C)(=O)O | C2H4O2
solvent | water | ca. 100 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 12 mL | O | H2O
product | [2-Butyl-5[(3-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1-H-imidazol-1-yl]methylbenzoic acid | C(CCC)C=1N(C(=CN1)C=C1N(C(NC1=O)=O)CCCC)CC1=C(C(=O)O)C=CC=C1 | C23H28N4O4
